US08222416B2
A mixture of 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(2-methoxy-ethoxy)-1H-pyrrolo[2,3-b]pyridine (260 mg, 0.59 mmol) and 10% palladium on activated carbon (40 mg) in methanol (200 mL) was heated at 50° C. under hydrogen (50 psi) for 6 h. The mixture was cooled to room temperature. The catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo and purified using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-(2-methoxy-ethoxy)-1H-pyrrolo[2,3-b]pyridine (100 mg, 38.5%) as a white solid: LC/MS m/e calcd for C24H30N2O4S [M+H]+ 443.58, observed 443.3; 1H NMR (400 MHz, CDCl3) δ ppm 10.76 (br. s., 1H), 7.96 (br. s., 1H), 7.86-7.93 (m, 2H), 7.72 (s, 1H), 7.50-7.60 (m, 2H), 6.40 (br. s., 1H), 4.30 (t, J=7.6 Hz, 1H), 4.22 (br. s., 2H), 3.80 (br. s., 2H), 3.48 (s, 3H), 3.02-3.08 (m, 3H), 2.09-2.29 (m, 2H), 1.59-1.85 (m, 5H), 1.44-1.56 (m, 2H), 1.13-1.28 (m, 2H).

reactant | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(2-methoxy-ethoxy)-1H-pyrrolo[2,3-b]pyridine | 0.59 mmol, 260 mg | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)OCCOC)N1 | C24H28N2O4S
catalyst | palladium on activated carbon | 40 mg | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-(2-methoxy-ethoxy)-1H-pyrrolo[2,3-b]pyridine | 100 mg, 38.5% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)OCCOC)N1 | C24H30N2O4S
